US06440995B1
(RS)-3-(8-Methoxy-2-phenyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride
The title compound, m.p. 110-116° C., and MS: m/e=325.3 (M+H+), was prepared from 4-chloro-8-methoxy-2-phenyl-quinoline and (RS)-3-amino-1,2-propandiol.

reactant | 4-chloro-8-methoxy-2-phenyl-quinoline | ClC1=CC(=NC2=C(C=CC=C12)OC)C1=CC=CC=C1 | C16H12ClNO
reactant | (RS)-3-amino-1,2-propandiol | NCC(CO)O | C3H9NO2
product | (RS)-3-(8-Methoxy-2-phenyl-quinolin-4-ylamino)-propane-1,2-diol hydrochloride | Cl.COC=1C=CC=C2C(=CC(=NC12)C1=CC=CC=C1)NCC(CO)O | InChI=1S/C19H20N2O3.ClH/c1-24-18-9-5-8-15-17(20-11-14(23)12-22)10-16(21-19(15)18)13-6-3-2-4-7-13;/h2-10,14,22-23H,11-12H2,1H3,(H,20,21);1H
